US07989461B2
To a suspension of 6-methyl-5-nitrophthalazin-1(2H)-one (9.446 g, 46 mmol) in EtOH (1000 ml) charged to a 2000 mL round bottom flask, palladium, 10 wt. % on activated carbon (0.490 g, 0.46 mmol) was added. The reaction mixture was stirred at 50° C. for 6 days under H2 (1 atm). When complete, the reaction mixture was filtered through a small pad of celite, washing with excess EtOH and some DMF. The liquid was then concentrated under vacuum to give 5-amino-6-methylphthalazin-1(2H)-one (7.99 g, 99% yield) as a yellow solid. MS (M+H)+ 176.

reactant | 6-methyl-5-nitrophthalazin-1(2H)-one | 46 mmol, 9.446 g | CC=1C(=C2C=NNC(C2=CC1)=O)[N+](=O)[O-] | C9H7N3O3
solvent | EtOH | 1000 ml | CCO | C2H6O
catalyst | palladium | [Pd] | Pd
product | 5-amino-6-methylphthalazin-1(2H)-one | 7.99 g, 99% yield | NC1=C2C=NNC(C2=CC=C1C)=O | C9H9N3O
